US08242145B2
Step 3: [3-[2-((4R,5S)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-4-(1-methyl-1H-pyrazol-4-yl)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 19, Step 3, using the following starting materials: {3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester and 1-methylpyrazole-4-boronic acid pinacol ester.

reactant | {3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C28H23F6NO8S
reactant | 1-methylpyrazole-4-boronic acid pinacol ester | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
product | [3-[2-((4R,5S)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-4-(1-methyl-1H-pyrazol-4-yl)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)C=1C=NN(C1)C)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C31H28F3N3O5
